US07423067B2
Step B 1-tert-Butoxycarbonyl-3-ethylazetidine-3-carboxylic Acid
The title compound was prepared following the procedure described for Reference Example 10 substituting cyclobutanecarboxylate with methyl 1-tert-butoxycarbonylazetidine-3-carboxylate. 1H NMR (500 MHz, CD3OD): δ 4.12 (d, 2H), 3.70 (d, 2H), 1.82 (q, 2H), 1.42 (s, 9H), 0.90 (t, 3H).

reactant | cyclobutanecarboxylate | C1(CCC1)C(=O)[O-]
reactant | methyl 1-tert-butoxycarbonylazetidine-3-carboxylate | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)OC | C10H17NO4
product | 1-tert-Butoxycarbonyl-3-ethylazetidine-3-carboxylic Acid | C(C)(C)(C)OC(=O)N1CC(C1)(C(=O)O)CC | C11H19NO4
